US07220773B2
Preparation for methyl 3-(3-iodophenyl)propionate
To a solution of the mixture of 3-(3-iodophenyl)propionic acid (12.0 g) in methanol (200 ml) was added thionyl chloride (11.0 g, 92.5 mmol), and the mixture was stirred for 30 minutes at 40° C. To the mixture was added an aqueous saturated sodium hydrogencarbonate solution and the mixture was extracted with toluene:ethyl acetate (1:1). The organic layer was washed with water and an aqueous saturated sodium chloride solution, and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was separated and purified with silica gel chromatography (hexane:ethyl acetate=5:1→4:1) to give the subject compound (9.66 g, 61%:total of 3 steps).

reactant | 3-(3-iodophenyl)propionic acid | 12.0 g | IC=1C=C(C=CC1)CCC(=O)O | C9H9IO2
reactant | thionyl chloride | 92.5 mmol, 11.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | methyl 3-(3-iodophenyl)propionate | IC=1C=C(C=CC1)CCC(=O)OC | C10H11IO2
